Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
dye in advil / hydrocodone
 
Attending: ___.
 
Chief Complaint:
epigastric abdominal pain
 
Major Surgical or Invasive Procedure:
___- laparoscopic cholecystectomy 

 
History of Present Illness:
___ presents w epigastric pain and emesis since ~8 pm the 
night of admission and emesis. Had similar pain followed by N/V 
x2 back in (___) but those times only lasted ~4 hr. The 
pain on admission was epigastric, mostly pressure-like, comes & 
goes, previously was worse when supine but on presentation the 
pain was not affected by position, and does not radiate. 
Initially had back pain, but it resolved after her second count 
of emesis. On presentation, she had Emesis x6, with the last 2 
being bilious. Had a normal BM the previous day but was loose. 
Last colonoscopy was in ___ or ___ for IBS, no abnormalities 
were found at that time

 
Past Medical History:
-IBS-D
-anxiety
-depression
-asthma 
 
Social History:
___
Family History:
-Mother has UC.
-Maternal uncle died of colon CA in his ___. 
-Maternal Grandmother died of pancreatic cancer (in her late 
___. 
 
Physical Exam:
Physical Exam on Admission:
Vitals: 98.1, 62, 143/86, 16, 100% RA
GEN: A&O, NAD, well appearing
HEENT: No scleral icterus, mucus membranes moist, periorbital
petechiae (b/l)
CV: RRR
PULM: breathing comfortably on room air
ABD: Soft, nondistended, mild epigastric & LUQ tenderness, also 
tiny area of focal R flank tenderness, no rebound or guarding, 
no palpable masses or hernias
DRE: deferred (pt is in the hall)
Ext: No ___ edema, ___ warm and well perfused

Physical Exam on Admission:
Vitals: 98.6, 72, 128/74, 16, 98% RA
GEN: A&O, NAD, well appearing
HEENT: wnl
CV: RRR
PULM: breathing comfortably on room air, CTAB
ABD: Soft, non distended, incisions clean/ dry/ and intact, no 
erythema, steri-strips in place
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 01:26PM   WBC-18.9* RBC-4.48 HGB-13.7 HCT-41.2 MCV-92 
MCH-30.6 MCHC-33.3 RDW-13.2 RDWSD-44.7
___ 01:26PM   ALT(SGPT)-14 AST(SGOT)-20 ALK PHOS-82 TOT 
BILI-0.4
___ 01:26PM   LIPASE-92*
 
Brief Hospital Course:
Patient was admitted on ___ for epigastric abdominal pain 
which was concerning for acute cholecystitis. Patient received a 
RUQ U/S which showed Cholelithiasis, with at least 1 gallstone 
at the gallbladder neck. Patient was made NPO, started on IVF 
and prepared for the OR for the following morning. On ___ , 
patient was taken to the OR for an uncomplicated laparoscopic 
cholecystectomy, please see operative note for more details.  
She tolerated the procedure well and was extubated upon 
completion. She was subsequently taken to the PACU for recovery.

She was transferred to the surgical floor hemodynamically 
stable. Her vital signs were routinely monitored and she 
remained afebrile and hemodynamically stable. She was initially 
given IV fluids postoperatively, which were discontinued when 
she was tolerating PO's. Her diet was advanced to regular, which 
she tolerated without abdominal pain, nausea, or vomiting. She 
was voiding adequate amounts of urine without difficulty. She 
was encouraged to mobilize out of bed and ambulate as tolerated, 
which she was able to do independently. Her pain level was 
routinely assessed and well controlled at discharge with an oral 
regimen as needed.

The patient was discharged home on ___ without services. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.
 
Medications on Admission:
-Advair Diskus (250/50) BID
-ProAir INH PRN
-zyrtec
-OCP
-benzaclin (topical)
-Xanax PRN
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
Please take 500-1000mg q8hrs PRN for mild pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: pacu
Wean as tolerated. Patient may request partial fill 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ and 
underwent a laparoscopic cholecystectomy. You are recovering 
well and are now ready for discharge. Please follow the 
instructions below to continue your recovery::
Please follow up in the Acute Care Surgery clinic at the 
appointment listed below.
 
ACTIVITY:
-Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
-You may climb stairs. 
-You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
-Don't lift more than ___ lbs for 4 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
-You may start some light exercise when you feel comfortable.
-You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
 
HOW YOU MAY FEEL: 
-You may feel weak or "washed out" for a couple of weeks. You 
might want to nap often. Simple tasks may exhaust you.
-You may have a sore throat because of a tube that was in your 
throat during surgery.
-You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
-You could have a poor appetite for a while. Food may seem 
unappealing.
-All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:
-Tomorrow you may shower and remove the gauzes over your 
incisions. Under these dressing you may have small plastic 
bandages called steri-strips. Do not remove steri-strips for 2 
weeks. (These are the thin paper strips that might be on your 
incision.) But if they fall off before that that's okay). If 
your incisions are closed with dermabond (surgical glue), this 
will fall off on it's own in ___ days. 
-Your incisions may be slightly red. This is normal.
-You may gently wash away dried material around your incision.
-Avoid direct sun exposure to the incision area.
-Do not use any ointments on the incision unless you were told 
otherwise.
-You may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon.
-You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
 
YOUR BOWELS:
-Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
-If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon. 
 
PAIN MANAGEMENT:
-It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
-Your pain should get better day by day. If you find the pain is 
getting worse instead of better, please contact your surgeon.
-You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed.
-Your pain medicine will work better if you take it before your 
pain gets too severe.
-Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
-If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
-Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.

If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.
If you have any questions about what medicine to take or not to 
take, please call your surgeon.

Warm regards, 

Your ___ Surgery Team 

 
Followup Instructions:
___